US05716974
Preparation of 2-(4-methoxyphenyl)-5-(1-methoxycarbonyl-2-methoxyethen-1-yl)-6-methylimidazolo[2,1-b]-1,3,4-thiadiazole (Compound No. 4)
A solution of 10 g of 2-(4-methoxyphenyl)-5-methoxycarbonylmethyl-6-methylimidazolo-[2,1-b]-1,3,4-thiadiazole in 50 cm3 of methyl formate is dripped into a solution of 1.8 g of sodium hydride bromide in 10 cm3 of anhydrous dimethylformamide (DMF). The solution is left under agitation overnight at ambient temperature and is then poured into water and extracted twice with ethyl acetate.

reactant | 2-(4-methoxyphenyl)-5-methoxycarbonylmethyl-6-methylimidazolo-[2,1-b]-1,3,4-thiadiazole | 10 g | COC1=CC=C(C=C1)C1=NN2C(S1)=NC(=C2CC(=O)OC)C | C15H15N3O3S
reactant | sodium hydride bromide | 1.8 g | [Br-].[H-].[Na+]
reactant | water | O | H2O
reactant | methyl formate | 50 cm3 | C(=O)OC | C2H4O2
solvent | dimethylformamide | 10 cm3 | CN(C=O)C | C3H7NO
product | 2-(4-methoxyphenyl)-5-(1-methoxycarbonyl-2-methoxyethen-1-yl)-6-methylimidazolo[2,1-b]-1,3,4-thiadiazole | COC1=CC=C(C=C1)C1=NN2C(S1)=NC(=C2C(=COC)C(=O)OC)C | C17H17N3O4S
